************************************************************************
* auCdl Netlist:
* 
* Library Name:  EE113_SPI
* Top Cell Name: 3AND
* View Name:     schematic
* Netlisted on:  Jan 18 06:21:39 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: EE113Lab2
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv GND VDD VI VO
*.PININFO VI:I VO:O GND:B VDD:B
MNM0 VO VI GND GND n18 W=220n L=180n m=1
MPM0 VO VI VDD VDD p18 W=660n L=180n m=1
.ENDS

************************************************************************
* Library Name: EE113_SPI
* Cell Name:    3AND
* View Name:    schematic
************************************************************************

.SUBCKT 3AND A B C GND VDD VO
*.PININFO A:I B:I C:I VO:O GND:B VDD:B
MPM0 net66 A VDD VDD p18 W=440n L=180n m=1
MPM1 net66 B VDD VDD p18 W=440n L=180n m=1
MPM2 net66 C VDD VDD p18 W=440n L=180n m=1
MNM0 net66 A net71 GND n18 W=220n L=180n m=1
MNM1 net71 B net72 GND n18 W=220n L=180n m=1
MNM2 net72 C GND GND n18 W=220n L=180n m=1
XI0 GND VDD net66 VO / inv
.ENDS

